US07893056B2
To a mixture of methyl 2-methyl-N-[3-(methyloxy)-3-oxopropyl]alaninate (11.71 g, 57.62 mmol) in 1:1 DCM-water (300 mL) was added NaHCO3 (9.68 g, 115.2 mmol) followed by benzoyl chloride (7.02 mL, 60.48 mmol). The mixture was vigorously stirred overnight, and the phases were then separated. The organic phase was dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The residue was purified by silica gel chromatography (35% EtOAc in hexanes) to give methyl 2-methyl-N-[3-(methyloxy)-3-oxopropyl]-N-(phenylcarbonyl)alaninate (3.6787 g, 21% yield) as a colorless oil. LCMS: (M+H)+: 308.1.

reactant | methyl 2-methyl-N-[3-(methyloxy)-3-oxopropyl]alaninate | 57.62 mmol, 11.71 g | CC(NCCC(=O)OC)(C)C(=O)OC | C9H17NO4
reactant | NaHCO3 | 115.2 mmol, 9.68 g | C(=O)(O)[O-].[Na+]
reactant | benzoyl chloride | 60.48 mmol, 7.02 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | DCM water | 300 mL | C(Cl)Cl.O
product | methyl 2-methyl-N-[3-(methyloxy)-3-oxopropyl]-N-(phenylcarbonyl)alaninate | 3.6787 g, 21% yield | CC(N(C(=O)C1=CC=CC=C1)CCC(=O)OC)(C)C(=O)OC | C16H21NO5
